US07105503B2
Preparation of 4-Fluoro-2-morpholin-4-ylmethylphenylamine
To a solution of 4-(5-fluoro-2-nitrobenzyl)morpholine (240 mg; 1.0 mmol) in THF:ethanol mixture (1:1) (40 mL) was added a catalytical amount of Raney-Nickel and hydrazine hydrate (6.0 mmol). The mixture was stirred for 30 minutes at ambient temperature, then filtered through a Celite pad and the filtrate was evaporated to provide the title compound (208 mg, 99%), which was used in further reactions without purification.

reactant | 4-(5-fluoro-2-nitrobenzyl)morpholine | 1.0 mmol, 240 mg | FC=1C=CC(=C(CN2CCOCC2)C1)[N+](=O)[O-] | C11H13FN2O3
reactant | ethanol | 40 mL | C(C)O | C2H6O
reactant | hydrazine hydrate | 6.0 mmol | O.NN
solvent | THF | C1CCOC1 | C4H8O
catalyst | Raney-Nickel | [Ni] | Ni
product | 4-Fluoro-2-morpholin-4-ylmethylphenylamine | 208 mg, 99% | FC1=CC(=C(C=C1)N)CN1CCOCC1 | C11H15FN2O
